US07309703B2
C. 1-(3-(4-Chloro-phenyl)-1-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone
1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (0.053 g, 0.15 mmol) was dissolved in CH3CN (0.5 mL) and a solution of 1-(2-fluorophenyl)piperazine (0.053 g, 0.30 mmol) in CH3CN (0.5 mL) was added, followed by K2CO3 (0.031 g, 0.22 mmol) and Bu4NI (0.018 g, 0.05 mmol). The mixture was stirred at room temperature for 7 d. Preparative TLC (silica, 5% MeOH/EtOAc) afforded 30 mg (41%) of the title compound. MS (electrospray): exact mass calculated for C27H31ClFN5O, 495.22; m/z found, 496.3 [M+H]+. 1H NMR (500 MHz, CDCl3, a mixture of 1:1 rotamers): 7.60 (d, J=8.3 Hz, 1H), 7.54 (d, J=8.3 Hz, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.35 (d, J=8.3 Hz, 1H), 7.06-6.90 (m, 4H), 4.77 (s, 1H), 4.60 (s, 1H), 4.10 (t, J=6.8 Hz, 2H), 3.92 (t, J=5.7 Hz, 1H), 3.74 (t, J=5.7 Hz, 1H), 3.08 (br s, 4H), 2.83 (t, J=5.6 Hz, 1H), 2.77 (t, J=5.7 Hz, 1H), 2.58 (br s, 4H), 2.41-2.38 (m, 2H), 2.19 (s, 1.5H), 2.13 (s, 1.5H), 2.10-2.07 (m, 2H).

reactant | 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.15 mmol, 0.053 g | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CCCCl | C17H19Cl2N3O
reactant | 1-(2-fluorophenyl)piperazine | 0.30 mmol, 0.053 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | K2CO3 | 0.22 mmol, 0.031 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH EtOAc | CO.CCOC(=O)C
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
catalyst | Bu4NI | 0.05 mmol, 0.018 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 1-(3-(4-Chloro-phenyl)-1-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone | 30 mg, 41% | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CCCN2CCN(CC2)C2=C(C=CC=C2)F | C27H31ClFN5O
